US05120848
(±)-(E)-1-[4,5-Bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3-hydroxy-1-hexen-5-one
To a solution of lithium bis(trimethylsilyl)amide (4.1 ml, IM solution in THF) in dry THF (20 ml) at -78° under nitrogen was added dry acetone (275 μl). After 25 min, a solution of (E)-3-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenal (881 mg) in dry THF (15 ml) was added dropwise over 10 min. Stirring was continued for 25 min at -78° then the reaction was quenched with saturated aqueous ammonium chloride solution (25 ml) and allowed to warm to room temperature. The layers were separated and the aqueous phase extracted with ethyl acetate (2×50 ml). The combined extracts were dried and evaporated to a white solid (1.09 g). FCC eluting with System A (1:1) gave the title compounds as a white solid (709.6 mg). (CDCl3) 7.35-7.45 and 7.20-7.29(2m,4H,C-2 and C-6 protons of 4-fluorophenyl), 7.10 and 6.90(2t,4H,C-3 and C-5 protons of 4-fluorophenyl,J=9 Hz), 6.70(d,1H,NCH=CHCH,J=13.7 Hz), 5.26(dd,1H,NCH=CHCH,J=13.7 Hz,6.3 Hz), 4.58(m,1H,NCH=CHCH), 3.15(m,2H,CH(CH3)2 and OH), 2.50(m,2H,CH(OH)CH2C(O)), 2.15(s,3H,CH2C(O)CH3), 1.40(d,6H,CH(CH3)2,J=7.5 Hz).

reactant | lithium bis(trimethylsilyl)amide | 4.1 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | acetone | 275 μl | CC(=O)C | C3H6O
reactant | (E)-3-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenal | 881 mg | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/C=O)C(C)C | C21H18F2N2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (±)-(E)-1-[4,5-Bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3-hydroxy-1-hexen-5-one | 709.6 mg | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)\C=C\C(CC(C)=O)O)C(C)C | C24H24F2N2O2
